US07615609B2
To a solution of 23.7 g Z-D-Trp-OH in 230 ml THF are added 9.5 g HOBt at RT. A clear colorless solution is formed. Then 20.8 g H-Lys(BOC)-OMe.HCl are added at RT, followed by 7.7 ml N-methylmorpholine. The fine suspension is cooled down to 0° and 11.4 ml diisopropylcarbodiimide added. Stirring 1 hour at 0°, then 3 hours at RT. A solution of 7.0 g sulfuric acid conc. in 120 ml water is added to the suspension. Extraction with 150 ml ethyl acetate, separation of the phases and washing of the organic phase consecutively with 100 ml brine saturated, 100 ml brine 25%, 5% sodium hydrogencarbonate solution. Then the organic phase is dried over MgSO4 and evaporated. The residue is taken up in 250 ml isopropyl acetate and stirred 2 hours at RT. Filtration and drying at 40° gives 40.9 g Z-D-Trp-Lys(BOC)-OMe, white substance. HPLC-conditions: MN Nucleosil 100 A/C 18; 5 micron; 250×4 mm; phase A: 0.24% phosphoric acid, phase B acetonitrile; gradient: from 20 to 80% B in 30 minutes; wavelength 220 nm; flow rate 1.3 ml/min; Temperature 35°: purity 97.8% b.a. (24.2 min).

reactant | Z-D-Trp-OH | 23.7 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H18N2O4
reactant | HOBt | 9.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-Lys(BOC)-OMe.HCl | 20.8 g | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC.Cl
reactant | N-methylmorpholine | 7.7 ml | CN1CCOCC1 | C5H11NO
reactant | diisopropylcarbodiimide | 11.4 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | sulfuric acid | 7.0 g | S(O)(O)(=O)=O | H2O4S
solvent | THF | 230 ml | C1CCOC1 | C4H8O
solvent | water | 120 ml | O | H2O
product | Z-D-Trp-Lys(BOC)-OMe | 40.9 g | N([C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C31H40N4O7
